US04666453
Preparation of 2-chloro-5-β-aminoethylamino-4-nitro-N-β-methoxyethylaniline hydrochloride
0.1 mole (28.6 g) of 4,5-dichloro-2-nitro-N-β-aminoethylaniline prepared in the 1st stage is heated for 4 h 30 min in 60 ml of 2-methoxyethylamine on a steam bath. After cooling and dilution with 200 ml of iced water, the precipitate is recrystallized from isopropanol. After being dissolved in a hot mixture of water and alcohol to which hydrochloric acid has been added, the expected product precipitates as a hydrochloride. It decomposes at 260°-265° C.

reactant | 4,5-dichloro-2-nitro-N-β-aminoethylaniline | 0.1 mole, 28.6 g | ClC1=CC(=C(NCCN)C=C1Cl)[N+](=O)[O-] | C8H9Cl2N3O2
reactant | 2-methoxyethylamine | 60 ml | COCCN | C3H9NO
product | 2-chloro-5-β-aminoethylamino-4-nitro-N-β-methoxyethylaniline hydrochloride | Cl.ClC1=C(NCCOC)C=C(C(=C1)[N+](=O)[O-])NCCN | InChI=1S/C11H17ClN4O3.ClH/c1-19-5-4-15-9-7-10(14-3-2-13)11(16(17)18)6-8(9)12;/h6-7,14-15H,2-5,13H2,1H3;1H
